US08389766B2
Alternative preparation of 4-cyano-3-nitro-benzoic acid
4-Cyano-3-nitro-benzoic acid methyl ester (13.4 g, 61.6 mmol) was dissolved in tetrahydrofuran (74 ml) and aqueous sodium hydroxide (1M) (73.9 ml) was added. The reaction mixture was stirred at 25° C. for 4 hours. Then the reaction mixture was diluted with water (700 ml) and acidified with aqueous hydrochloric acid (1M). The mixture was extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated. 4-Cyano-3-nitro-benzoic acid (12.0 g) was used in the next step without further purification. 1H-NMR (400 MHz, DMSO-d6): 13.00 (bs, 1H), 8.79 (s, 1H), 8.40 (d, 1H), 8.30 (d, 1H) ppm.

reactant | 4-Cyano-3-nitro-benzoic acid methyl ester | 61.6 mmol, 13.4 g | COC(C1=CC(=C(C=C1)C#N)[N+](=O)[O-])=O | C9H6N2O4
reactant | sodium hydroxide | 1M, 73.9 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 74 ml | O1CCCC1 | C4H8O
solvent | water | 700 ml | O | H2O
product | 4-cyano-3-nitro-benzoic acid | C(#N)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H4N2O4
